US04891436
Briefly, the process of Bailey may be described as follows. Dicyclopentadiene is heated to between 240°-250° C. to form an 80-85% yield cyclopentadiene, which is allowed to react with acrolein to produce norbornene carboxaldehyde in a yield of 79% based on the cyclopentadiene (83% based on the acrolein). The resulting norbornene carboxaldehyde is allowed to react with formaldehyde and caustic to form 5-norbornene-2,2-dimethanol which is heated to between 420°-450° C. to form 1,1-dihydroxymethyl ethylene and cyclopentadiene in a yield of 10-40%. The 1,1-dihydroxymethyl ethylene, is allowed to react with dibutyl tin oxide to form a cyclic tin intermediate which is allowed to react with carbon disulfide (CS2) to form 3,9-dimethylene-1,5,7,11-tetraoxa-spiro[5,5]undecane (BMSOC).

reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | acrolein | C(=O)C=C | C3H4O
reactant | norbornene carboxaldehyde | C12(C=CC(CC1)C2)C=O | C8H10O
reactant | formaldehyde | C=O | CH2O
product | 5-norbornene-2,2-dimethanol | C12C(CC(C=C1)C2)(CO)CO | C9H14O2
